US06982348B2
To a solution of (4RS,5SR)-5-(3-chlorophenyl)-4-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-1,3-oxazolidin-2-one (2.43 g, 5.79 mmol) in acetonitrile (40 ml) were successively added di-tert-butyl dicarbonate (1.52 g, 6.95 mmol) and 4-(dimethylamino)pyridine (71 mg, 0.579 mmol), and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and the residue was recrystallized from hexane-ethyl acetate to give tert-butyl (4RS,5SR)-5-(3-chlorophenyl)-2-oxo-4-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-1,3-oxazolidine-3-carboxylate (2.77 g, 92%) as colorless crystals.

reactant | (4RS,5SR)-5-(3-chlorophenyl)-4-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-1,3-oxazolidin-2-one | 5.79 mmol, 2.43 g | ClC=1C=C(C=CC1)C1C(NC(O1)=O)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C19H15ClF5NO2
reactant | di-tert-butyl dicarbonate | 6.95 mmol, 1.52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 0.579 mmol, 71 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (4RS,5SR)-5-(3-chlorophenyl)-2-oxo-4-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-1,3-oxazolidine-3-carboxylate | 2.77 g, 92% | ClC=1C=C(C=CC1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C24H23ClF5NO4
